US08278341B2
2-(12-bromo-2,10-difluoro-5,7-dihydroindolo[2,3-b]carbazol-6-yloxy)-N,N-dimethylethanamine
To a solution of 2-(2,10-difluoro-5,7-dihydroindolo[2,3-b]carbazol-6-yloxy)-N,N-dimethylethanamine (213.9 mg, 0.5638 mmol) in DMF (20 mL) at 0° C. was added Br2 in CH2Cl2 (50 mg/mL, 1.982 mL, 0.6201 mmol). The reaction was warmed to room temperature and stirred for two hours. DMF was removed via vacuum pump. The residue was dissolved in ethyl acetate (100 mL) and washed with saturated aq. NaCO3. The organic layers was concentrated and subjected to flash chromatography to provide the title compound (188.4 mg, 73%). 1H-NMR (400 MHz, DMSO-d6) δ ppm 11.89 (br s, 2H), 8.39 (dd, J=10.0, 2.4 Hz, 2H), 7.55 (dd, J=8.8, 4.4 Hz, 2H), 7.31 (td, J=8.8, 2.4 Hz, 2H), 4.34 (t, J=5.2 Hz, 2H), 2.74 (t, J=5.6 Hz, 2H), 2.36 (s, 6H); MS (ESI) m/z 456.1 (M−H)−; MS (ESI) m/z 458.0 (M+H)+

reactant | 2-(2,10-difluoro-5,7-dihydroindolo[2,3-b]carbazol-6-yloxy)-N,N-dimethylethanamine | 0.5638 mmol, 213.9 mg | FC=1C=C2C=3C=C4C(=C(C3NC2=CC1)OCCN(C)C)NC=1C=CC(=CC14)F | C22H19F2N3O
reactant | Br2 | BrBr | Br2
reactant | CH2Cl2 | 0.6201 mmol, 1.982 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2-(12-bromo-2,10-difluoro-5,7-dihydroindolo[2,3-b]carbazol-6-yloxy)-N,N-dimethylethanamine | 188.4 mg, 73% | BrC1=C2C(=C(C=3NC4=CC=C(C=C4C13)F)OCCN(C)C)NC=1C=CC(=CC12)F | C22H18BrF2N3O
